US06949542B2
4-[3-(6-Amino-pyrimidin-4-yl)-phenyl]-8-chloro-7-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester (Example J22) (103 mg, 0.4 mmol) and 3-[3-(6-amino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K53) (138 mg, 0.44 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (126 mg).

reactant | (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester | 0.4 mmol, 103 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)N)=O | C12H17ClN2O2
reactant | 3-[3-(6-amino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.44 mmol, 138 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC=NC(=C1)N)=O | C17H19N3O3
product | 4-[3-(6-Amino-pyrimidin-4-yl)-phenyl]-8-chloro-7-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | NC1=CC(=NC=N1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C)Cl | C20H16ClN5O
